US08012956B2
Methyl 4-cyano-5-(pentan-3-ylamino)-2-(trifluoromethyl)benzoate (257 mg, 0.818 mmol) was dissolved in DMSO (2 mL) and was cooled in a cold water bath. 30% Aqueous hydrogen peroxide (0.2 mL) and potassium carbonate (38 mg, 0.275 mmol) was added and the mixture was stirred at ambient temperature for 1.5 h. The reaction mixture was partitioned between ethyl acetate and water. The aqueous portion was extracted with ethyl acetate. The combined organic portion was dried over sodium sulfate then filtered and concentrated to afford methyl 4-aminocarbonyl-5-(pentan-3-ylamino)-2-(trifluoromethyl)benzoate (quantitative yield) as a yellow oil. MS (EI) for C15H19F3N2O3: 333 (MH+).

reactant | Methyl 4-cyano-5-(pentan-3-ylamino)-2-(trifluoromethyl)benzoate | 0.818 mmol, 257 mg | C(#N)C1=CC(=C(C(=O)OC)C=C1NC(CC)CC)C(F)(F)F | C15H17F3N2O2
reactant | hydrogen peroxide | 0.2 mL | OO | H2O2
reactant | potassium carbonate | 0.275 mmol, 38 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | methyl 4-aminocarbonyl-5-(pentan-3-ylamino)-2-(trifluoromethyl)benzoate | quantitative yield | NC(=O)C1=CC(=C(C(=O)OC)C=C1NC(CC)CC)C(F)(F)F | C15H19F3N2O3
